US04025622
1-(2,3,4,-tri-O-acetyl-α-D-arabinopyranosyl)-3-(benzothiazol-2-yl)-2-thiourea
To 15 ml of anhydrous xylene were added 320 mg (1 mmol) of 2,3,4-tri-O-acetyl-D-arabinopyranosyl isothiocyanate and 150 mg (1 mmol) of 2-aminobenzothiazole (MW 150) and the mixture was treated in the same manner as that used in Example 4, yielding a syrup. The syrup was purified by column chromatography on silica-gel using benzene-acetone as eluent to give the tilted compound from the fraction of benzene-acetone (9:1). Yield: 110 mg (24%).

reactant | 2,3,4-tri-O-acetyl-D-arabinopyranosyl isothiocyanate | 1 mmol, 320 mg | C(C)(=O)O[C@@H]1C(OC[C@H]([C@H]1OC(C)=O)OC(C)=O)N=C=S | C12H15NO7S
reactant | 2-aminobenzothiazole | 1 mmol, 150 mg | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(2,3,4,-tri-O-acetyl-α-D-arabinopyranosyl)-3-(benzothiazol-2-yl)-2-thiourea | C(C)(=O)O[C@@H]1[C@H](OC[C@H]([C@H]1OC(C)=O)OC(C)=O)NC(=S)NC=1SC2=C(N1)C=CC=C2 | C19H21N3O7S2
